US06716851B2
4-(5-Chloro-2-methoxyanilino)-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-chloro-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine (150 mg, 0.578 mmol) and 5-chloro-2-methoxyaniline (98 mg, 0.621 mmol) similar to Example 160 and was isolated as off-white solid (84 mg, 0.221 mmol, 38%). 1H NMR (CDCl3/MeOH-d4): 8.72 (d, J=4.2 Hz, 2H), 8.51 (s, 1H), 8.34 (d, J=4.5 Hz), 7.09 (m, 2H), 6.91 (d, J=8.4 Hz, 1H), 3.93 (s, 3H)

reactant | 4-chloro-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine | 0.578 mmol, 150 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 5-chloro-2-methoxyaniline | 0.621 mmol, 98 mg | ClC=1C=CC(=C(N)C1)OC | C7H8ClNO
product | 4-(5-Chloro-2-methoxyanilino)-2-(4-pyridinyl)-6-trifluoromethyl-pyrimidine | ClC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C1)OC | C17H12ClF3N4O
